US07115611B2
C] 2-Methyl-2-(3-{methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-carbamoyl}-phenoxy)-propionic acid ethyl ester
0.28 g (1.05 mmol) of 2-methyl-2-(3-methylcarbamoyl-phenoxy)-propionic acid ethyl ester and 0.36 g (1.05 mmol) of methanesulfonic acid 2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl ester (example 59E]) were dissolved in 15 ml of DMF. The reaction mixture was cooled down to 0° C. and 0.05 g (1.20 mmol) of sodium hydride (55% in mineral oil) was added. After stirring for sixteen hours at ambient temperature, the reaction mixture was poured into crashed ice and extracted twice with Et2O. The combined organic phases were washed with water and brine and dried over anhydrous magnesium sulfate. After evaporation of the solvent, the crude product was purified by flash chromatography (SiO2, heptane/EtOAc) to give 0.249 g of the title compound as yellow oil.

reactant | 2-methyl-2-(3-methylcarbamoyl-phenoxy)-propionic acid ethyl ester | 1.05 mmol, 0.28 g | C(C)OC(C(C)(OC1=CC(=CC=C1)C(NC)=O)C)=O | C14H19NO4
reactant | methanesulfonic acid 2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl ester | 1.05 mmol, 0.36 g | CC1=NC(=CC=C1COS(=O)(=O)C)C1=CC=C(C=C1)C(F)(F)F | C15H14F3NO3S
reactant | sodium hydride | 1.20 mmol, 0.05 g | [H-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-Methyl-2-(3-{methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-carbamoyl}-phenoxy)-propionic acid ethyl ester | 0.249 g | C(C)OC(C(C)(OC1=CC(=CC=C1)C(N(CC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O)C)=O | C28H29F3N2O4
